US05328794
To the above solvent, a mixture of 200 g of lauryl methacrylate, 3 g of crotonic acid and 1 g of benzoyl peroxide was added dropwise at a constant speed over a period of 2 hours, followed by stirring at 90° C. for 3 hours to complete the polymerization reaction. Thus, lauryl methacrylate - crotonic acid copolymer was obtained.

reactant | lauryl methacrylate | 200 g | C(C(=C)C)(=O)OCCCCCCCCCCCC | C16H30O2
reactant | crotonic acid | 3 g | C(\C=C\C)(=O)O | C4H6O2
reactant | benzoyl peroxide | 1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | lauryl methacrylate crotonic acid | C(C(=C)C)(=O)OCCCCCCCCCCCC.C(\C=C\C)(=O)O | InChI=1S/C16H30O2.C4H6O2/c1-4-5-6-7-8-9-10-11-12-13-14-18-16(17)15(2)3;1-2-3-4(5)6/h2,4-14H2,1,3H3;2-3H,1H3,(H,5,6)/b;3-2+
